US07786142B2
Synthesis of N-[3-(9H-carbazol-4-yloxy)-2-hydroxypropyl]-3,4-dimethoxy-N-methylbenzamide
To a solution of 3,4-Dimethoxybenzoic acid (0.2 g, 1.11 mmol) in DMF (5 mL) was added DIPEA (0.48 mL, 2.8 mmol), EDCI (0.355 g, 1.85 mmol), HOBt (0.05 g, 0.37 mmol) followed by 1-(9H-carbazol-4-yloxy)-3-(methylamino)propan-2-ol (0.25 g, 0.925 mmol) prepared following the procedure described above in step I, example 72. The reaction was stirred at room temperature for 12 hours and was diluted with DCM (50 mL), washed with water and brine solution. The organic layer was dried over anhydrous Na2SO4, concentrated. The crude compound was purified by dissolution in dichloromethane (3 mL) and precipitation by adding diisopropyl ether (5 mL) and hexane (10 mL). The resulting white solid was filtered, and dried to afford the desired compound (0.15 g, 38%) with m.p.: 77-80° C. 1H NMR (400 MHz, CDCl3) δ (ppm): 3.10-3.40 (m, 3H), 3.70-4.10 (m, 7H), 4.07 (s, 1H), 4.20-4.25 (m, 1H), 4.38 (s, 1H), 4.56 (s, 1H), 4.76 (s, 1H), 6.74 (s, 1H), 6.87 (s, 1H), 6.90-7.15 (m, 4H), 7.20-7.49 (m, 3H), 8.17 (s, 1H), 8.30 (s, 1H). MS m/z: 435.0 (M+).

reactant | 3,4-Dimethoxybenzoic acid | 1.11 mmol, 0.2 g | COC=1C=C(C(=O)O)C=CC1OC | C9H10O4
reactant | DIPEA | 2.8 mmol, 0.48 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.85 mmol, 0.355 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.37 mmol, 0.05 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(9H-carbazol-4-yloxy)-3-(methylamino)propan-2-ol | 0.925 mmol, 0.25 g | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC(CNC)O | C16H18N2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(9H-carbazol-4-yloxy)-2-hydroxypropyl]-3,4-dimethoxy-N-methylbenzamide | 0.15 g, 38% | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC(CN(C(C1=CC(=C(C=C1)OC)OC)=O)C)O | C25H26N2O5
